US07795273B2
6-(4-Methoxy-phenyl)-pyrazolo[1,5-a]pyridine-3-carboxylic acid o-tolylamide
6-Bromo-pyrazolo[1,5-a]pyridine-3-carboxylic acid o-tolylamide (50 mg, 0.15 mmol), 4-methoxyphenylboronic acid (27.9 mg, 0.18 mmol), chloro-[2′-(dimethylamino)-2-biphenylyl]-(dinorbornylphosphine)-palladium (4.6 mg, 7.6 μmol; Fluka, CAS # 359803-53-5) and potassium carbonate (84 mg, 0.61 mmol) are heated in 5 ml dry dioxane to 130° C. for 20 minutes in the microwave oven. The product is isolated by automated column chromatography and is dried at the high vacuum pump, yielding the title compound as a white solid.

reactant | 6-Bromo-pyrazolo[1,5-a]pyridine-3-carboxylic acid o-tolylamide | 0.15 mmol, 50 mg | C1(=C(C=CC=C1)NC(=O)C=1C=NN2C1C=CC(=C2)Br)C | C15H12BrN3O
reactant | 4-methoxyphenylboronic acid | 0.18 mmol, 27.9 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 0.61 mmol, 84 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | chloro-[2′-(dimethylamino)-2-biphenylyl]-(dinorbornylphosphine)-palladium | 7.6 μmol, 4.6 mg | [Pd].ClP(C12CCC(CC1)C2)(C21CCC(CC2)C1)C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C
product | 6-(4-Methoxy-phenyl)-pyrazolo[1,5-a]pyridine-3-carboxylic acid o-tolylamide | C1(=C(C=CC=C1)NC(=O)C=1C=NN2C1C=CC(=C2)C2=CC=C(C=C2)OC)C | C22H19N3O2
